US05703106
To a cooled (-15° C.) solution of t-butoxycarbonylisoleucine (0.482 g, 2 mmol) and pyridine (0.16 ml) in methylene chloride (5 ml) is dropped cyanuric fluoride (0.9 ml) and the mixture is stirred at -15° C. for 1 hour. The reaction mixture is diluted with methylene chloride and ice, and filtered on Celite. The filtrate is diluted with ice water and extracted with methylene chloride. The organic layer is dried over magnesium sulfate and concentrated in vacuo to give t-butoxycarbonylisoleucine fluoride.

reactant | t-butoxycarbonylisoleucine | 2 mmol, 0.482 g | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C11H21NO4
reactant | pyridine | 0.16 ml | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 0.9 ml | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | t-butoxycarbonylisoleucine fluoride | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)F | C11H20FNO3
